US07465815B2
3-(5-Amino-3-(4-isopropylphenyl)-4,6-dimethyl-2,3-dihydro-1-benzofuran-7-yl)propan-1-ol
To a suspension of ethyl 3-(5-amino-3-(4-isopropylphenyl)-4,6-dimethyl-2,3-dihydro-1-benzofuran-7-yl)propanoate synthesized in Reference Example 321 (1.28 g, 3.36 mmol) in THF, was added Lithium aluminum hydride (255 mg, 6.72 mmol) at 0° C., and the mixture was stirred at the same temperature for 30 minutes and heated under reflux for 30 minutes. To the reaction solution was added water, and the product was extracted with ethyl acetate. The combined extract was washed with water, dried over magnesium sulfate and then concentrated under reduced pressure. The obtained residue was crystallized from hexane-ethyl acetate to obtain 750 mg (yield 66%) of the title compound. Melting point: 110-111° C. (hexane-ethyl acetate).

reactant | ethyl 3-(5-amino-3-(4-isopropylphenyl)-4,6-dimethyl-2,3-dihydro-1-benzofuran-7-yl)propanoate | NC=1C(=C(C2=C(C(CO2)C2=CC=C(C=C2)C(C)C)C1C)CCC(=O)OCC)C | C24H31NO3
reactant | Lithium aluminum hydride | 6.72 mmol, 255 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | O | H2O
solvent | THF | C1CCOC1 | C4H8O
product | 3-(5-Amino-3-(4-isopropylphenyl)-4,6-dimethyl-2,3-dihydro-1-benzofuran-7-yl)propan-1-ol | 750 mg, yield 66% | NC=1C(=C(C2=C(C(CO2)C2=CC=C(C=C2)C(C)C)C1C)CCCO)C | C22H29NO2
